US08008298B2
Diethylaluminum chloride (1.0 M in CH2Cl2, 3.6 mL, 3.6 mmol) was added to a 0-5° C. mixture of 2-bromo-5H-pyrrolo[2,3-b]pyrazine (0.237 g, 1.20 mmol) and 5 mL of dichloromethane in a sealed tube, and the mixture was stirred at 0-5° C. for 30 min. Crude 5-cyano-2,2-dimethyl-pentanoyl chloride from the previous step (“2.98 mmol”) dissolved in 3 mL of dichloromethane was added, and the mixture was stirred at 60° C. for 16 h. A sat. aq. NaHCO3 solution (50 mL) was carefully added, followed by 50 mL of ethyl acetate. The mixture was filtered through Celite, and the layers separate. The aqueous layer was extracted with 50 mL of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0→80% EtOAc/hexanes) afforded 0.079 g (20%) of 6-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-5,5-dimethyl-6-oxo-hexanenitrile as a yellow liquid.

reactant | Diethylaluminum chloride | 3.6 mmol, 1.0 M, 3.6 mL | [Cl-].C(C)[Al+]CC
reactant | 2-bromo-5H-pyrrolo[2,3-b]pyrazine | 1.20 mmol, 0.237 g | BrC=1N=C2C(=NC1)NC=C2 | C6H4BrN3
reactant | 5-cyano-2,2-dimethyl-pentanoyl chloride | C(#N)CCCC(C(=O)Cl)(C)C | C8H12ClNO
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-5,5-dimethyl-6-oxo-hexanenitrile | 0.079 g, 20% | BrC=1N=C2C(=NC1)NC=C2C(C(CCCC#N)(C)C)=O | C14H15BrN4O
